US06900335B2
In a flask made of glass equipped with a stirrer, a thermometer, a reflux condenser and a dropping funnel and having an inner volume of 200 ml were charged 7.13 g (51.6 mmol) of potassium carbonate, 20 ml of N,N-dimethylformamide, 5.06 g (50.6 mmol) of methyl cyanoacetate with a purity of 99% and 5.00 g (25.8 mmol) of 2,4-dichloronitrobenzene with a purity of 99% under argon atmosphere, and under stirring, the mixture was reacted at 45° C. for 4 hours. After completion of the reaction, the mixture was cooled to room temperature, 100 ml of ethyl acetate was added to the mixture, and 12.9 ml (77.4 mmol) of 6 mol/l hydrochloric acid was gradually added dropwise to the mixture while stirring. Then, after adding 50 ml of water to the mixture, the organic layer was separated, and washed with 50 ml of a saturated saline solution, and dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the resulting concentrate was purified by silica gel column chromatography (filler: Daisogel 1002W, eluent: hexane:ethyl acetate=20:1 (volume ratio)) to obtain 5.76 g (isolation yield: 83%) of methyl 2-(5-chloro-2-nitrophenyl)-2-cyanoacetate as white crystals with a purity of 95% (areal percentage by high performance liquid chromatography).

reactant | potassium carbonate | 51.6 mmol, 7.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl cyanoacetate | 50.6 mmol, 5.06 g | C(#N)CC(=O)OC | C4H5NO2
reactant | 2,4-dichloronitrobenzene | 25.8 mmol, 5.00 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | hydrochloric acid | 77.4 mmol, 6 mol/l, 12.9 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 2-(5-chloro-2-nitrophenyl)-2-cyanoacetate | 5.76 g, yield: 83% | ClC=1C=CC(=C(C1)C(C(=O)OC)C#N)[N+](=O)[O-] | C10H7ClN2O4
